US07592357B2
Step 2. 3-(Hydroxymethyl)benzenesulfonamide
To a solution of methyl 3-(aminosulfonyl)benzoate (520 mg, 2.4 mmol) in THF/EtOH (24 mL, 1:1), CaCl2 (533 mg, 4.8 mmol) and NaBH4 (363 mg, 9.6 mmol) were added in one portion respectively. The reaction mixture was stirred at room temperature for 6 hours, and then quenched with water. 1 M aqueous citric acid (8 mL) was added to the mixture and extracted with EtOAc (3×100 mL). The extracts were combined, washed with brine, and dried (Na2SO4). The solvent was evaporated to afford the product (307 mg, 68%) as a white solid. MS (ES+) m/z 210 [M+Na]+.

reactant | methyl 3-(aminosulfonyl)benzoate | 2.4 mmol, 520 mg | NS(=O)(=O)C=1C=C(C(=O)OC)C=CC1 | C8H9NO4S
reactant | CaCl2 | 4.8 mmol, 533 mg | [Cl-].[Cl-].[Ca+2]
reactant | NaBH4 | 9.6 mmol, 363 mg | [BH4-].[Na+]
solvent | THF EtOH | 24 mL | C1CCOC1.CCO
product | 3-(Hydroxymethyl)benzenesulfonamide | 307 mg, 68% | OCC=1C=C(C=CC1)S(=O)(=O)N | C7H9NO3S
